US06753342B2
A solution of ethyl 4-chloroacetoacetate (7.02 ml) and ammonium acetate (11.8 g) in absolute ethanol (180 ml) is refluxed for 3 hours. After a night at room temperature the solution is concentrated to dryness by distillation under reduced pressure and the resulting residue is purified by flash chromatography (silica gel, 200 g; eluent CH2Cl2/MeOH/TEA 15/5/02), to give 6.53 g of ethyl (Z)-3-amino-4-chloro-2-butenoate as dark oil which is used without further purifications.

reactant | ethyl 4-chloroacetoacetate | 7.02 ml | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | ammonium acetate | 11.8 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | ethyl (Z)-3-amino-4-chloro-2-butenoate | 6.53 g | N\C(=C/C(=O)OCC)\CCl | C6H10ClNO2
